US09024027B2
Step 3: Preparation of (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(6,7-dimethoxy-3,4-dihydroisoquinolin-2(1H)-yl)acetoxy)ethyl)pyridine 1-oxide (105)
To a stirred suspension of 2-(6,7-dimethoxy-3,4-dihydroisoquinolin-2(1H)-yl)acetic acid hydrochloride (822 mg, 2.86 mmol) in anhydrous DCM (30 ml), DMAP (523 mg, 4.28 mmol) and EDC (712 mg, 3.71 mmol) were added. The mixture was stirred at room temperature for 1 hour and then (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide (1.200 g, 2.86 mmol) was added. The mixture was stirred at room temperature for 48 hours, then diluted with DCM and washed with 1N HCl, dried over Na2SO4 and evaporated. The desired product was first purified by flash chromatography on silica gel (DCM:MeOH 10:0.2) followed by preparative HPLC (Method 2). The title compound was obtained (1.354 g, 73% yield). MS/ESI+ 653.18 [MH]+; [αD]=−43.91, c=0.69 in MeOH); 1H NMR (300 MHz, DMSO-d6) δ ppm 8.60 (s, 2H) 7.20 (d, 1H) 7.13 (d, 1H) 7.01 (dd, 1H) 7.07 (t, 1H) 6.64 (s, 1H) 6.58 (s, 1H) 6.10 (dd, 1H) 3.81-3.99 (m, 2H) 3.70 (s, 3H) 3.71 (s, 3H) 3.35-3.56 (m, 4H) 3.19-3.28 (m, 2H) 2.57-2.81 (m, 4H) 1.11-1.34 (m, 1H) 0.49-0.67 (m, 2H) 0.16-0.44 (m, 2H).

reactant | 2-(6,7-dimethoxy-3,4-dihydroisoquinolin-2(1H)-yl)acetic acid hydrochloride | 2.86 mmol, 822 mg | Cl.COC=1C=C2CCN(CC2=CC1OC)CC(=O)O
reactant | EDC | 3.71 mmol, 712 mg
reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide | 2.86 mmol, 1.200 g | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C18H17Cl2F2NO4
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 4.28 mmol, 523 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(6,7-dimethoxy-3,4-dihydroisoquinolin-2(1H)-yl)acetoxy)ethyl)pyridine 1-oxide | 73% yield | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1CC2=CC(=C(C=C2CC1)OC)OC)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C31H32Cl2F2N2O7
